US08202873B2
4-(1,3-Dimethyl-1H-pyrazol-4-ylmethyl)-3′-(2-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
Add 2-fluorobenzeneboronic acid (215 mg, 1.5 mmol) to a nitrogen purged solution of 3′-chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (200 mg, 0.65 mmol) in dry N,N-dimethylacetamide (4 mL), deoxygenated water (2 mL), potassium carbonate (215 mg, 1.72 mmol), tetrakis(triphenylphosphine)palladium(0) (0.004 g, 0.0035 mmol) and stir at 110° C. for 16 hr. Cool to room temperature, add water (10 mL) and extract with DCM (3×20 mL). Concentrate the combined DCM extracts and purify by reverse phase HPLC to give the title compound (0.130 g, 54%). MS (ES): m/z=367 [M+H]+.

reactant | 2-fluorobenzeneboronic acid | 1.5 mmol, 215 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | 3′-chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.65 mmol, 200 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C)C | C14H19ClN6
reactant | water | 2 mL | O | H2O
reactant | potassium carbonate | 1.72 mmol, 215 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0035 mmol, 0.004 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1,3-Dimethyl-1H-pyrazol-4-ylmethyl)-3′-(2-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | 0.130 g, 54% | CN1N=C(C(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=C(C=CC=C1)F)C | C20H23FN6
